US07576094B2
To a solution of 3-acetyl-2,6-diethyl-4-hydroxyphenyl acetate (4.0 g) and cyclobutanone (1.23 g) in toluene (150 mL) was added pyrrolidine (568 mg). The solution was left at room temperature for 16 hours, refluxed for two hours, and then a Dean-Stark was used to remove the water. After evaporation, the residue was dissolved in methanol and a lithium hydroxide solution (10%) was added until the solution reached a pH value greater than 9. The solution was stirred at room temperature for 2 hours and then neutralized to pH 7 using diluted hydrochloric acid. Work up and chromatography (silica gel, hexane-ethyl acetate 2% to 8%) gave 1.8 g of 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one. 1H-NMR (300 MHz, CDCl3) δ=6.67 (s, 1H), 5.14 (s, 1H), 4.01 (s, 3H), 3.11 (q, J=7.4 Hz, 2H), 2.84 (s, 2H), 2.65 (q, J=7.4 Hz, 2H), 2.30-1.65 (m, 6H), 1.30-1.10 (m, 6H) ppm. 13C-NMR (75 MHz, CDCl3) δ=194.3, 155.0, 146.0, 139.9, 130.6, 117.0, 115.8, 79.8, 47.7, 33.0, 23.8, 19.8, 13.9, 13.2, 12.1 ppm.

reactant | 3-acetyl-2,6-diethyl-4-hydroxyphenyl acetate | 4.0 g | C(C)(=O)OC1=C(C(=C(C=C1CC)O)C(C)=O)CC | C14H18O4
reactant | cyclobutanone | 1.23 g | C1(CCC1)=O | C4H6O
reactant | pyrrolidine | 568 mg | N1CCCC1 | C4H9N
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 5,7-diethyl-6-hydroxyspiro[chroman-2,1′-cyclobutan]-4-one | 1.8 g | C(C)C1=C2C(CC3(CCC3)OC2=CC(=C1O)CC)=O | C16H20O3
